US05849759
A solution of 3,4-diaminophenol (5.20 g, 42.0 mmol), isobutyric acid (5.80 mL, 63.0 mmol) and 4N HCl (50 mL) was refluxed for 16 hours. After cooling to ambient temperature, the reaction was neutralized (KHCO3). Filtration afforded a dark solid. The solid was dissolved in THF (100 mL) and H2O (20 mL). Di-tert-butyldicarbonate (4.09 g, 18.7 mmol) was added to the solution. After stirring for 12 hours, the reaction mixture was poured into H2O (50 mL). The resulting mixture was extracted with ethyl acetate (2×150 mL). The organic layers were washed with brine (10 mL), dried (Na2SO4) and concentrated. The resulting oil was chromatographed on SiO2 (50 g) with hexane/ethyl acetate (1:1) to afford 1-tert-butoxycarbonyl-6-hydroxy-2-isopropylbenzimidazole.

reactant | 3,4-diaminophenol | 42.0 mmol, 5.20 g | NC=1C=C(C=CC1N)O | C6H8N2O
reactant | isobutyric acid | 63.0 mmol, 5.80 mL | C(C(C)C)(=O)O | C4H8O2
reactant | HCl | 4N, 50 mL | Cl | ClH
reactant | Di-tert-butyldicarbonate | 18.7 mmol, 4.09 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
product | 1-tert-butoxycarbonyl-6-hydroxy-2-isopropylbenzimidazole | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)O)C(C)C | C15H20N2O3
